US06927232B2
(2-[3-(2,5-Dimethyl-pyrrol-1-yl)-phenylethynyl]-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester
The title compound, MS: m/e=362.8 (M+H+), was prepared in accordance with the general method of example 1b from 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester and 1-(3-ethynyl-phenyl)-2,5-dimethyl-1H-pyrrole.

reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
reactant | 1-(3-ethynyl-phenyl)-2,5-dimethyl-1H-pyrrole | C(#C)C=1C=C(C=CC1)N1C(=CC=C1C)C | C14H13N
product | 2-[3-(2,5-Dimethyl-pyrrol-1-yl)-phenylethynyl]-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)C#CC1=CC(=CC=C1)N1C(=CC=C1C)C)C | C22H23N3O2
